US07795267B2
7-[4-(3,6-Dihydropyridin-1(2H)-ylmethyl)benzoyl]-hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one
To a solution of 4-[(tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]benzaldehyde (0.15 g, 0.35 mmol) and 1,2,3,6-tetrahydropyridine (44 mg, 0.53 mmol) in tetrahydrofuran (4 mL) was added sodium triacetoxyborohydride (0.11 g, 0.52 mmol), and the mixture was stirred at room temperature for 27 hours. The reaction solution was diluted with water and then extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over magnesium sulfate. The solid was filtered off, and the filtrate was concentrated. The residue was purified with silica gel column chromatography (ethyl acetate to ethyl acetate:methanol=4:1) and crystallized from diisopropyl ether to obtain the title compound (70 mg, yield 41%).

reactant | 4-[(tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]benzaldehyde | 0.35 mmol, 0.15 g | O=C1OC(C2N1CCN(C2)C(=O)C2=CC=C(C=O)C=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H22N2O4
reactant | 1,2,3,6-tetrahydropyridine | 0.53 mmol, 44 mg | N1CCC=CC1 | C5H9N
reactant | sodium triacetoxyborohydride | 0.52 mmol, 0.11 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 7-[4-(3,6-Dihydropyridin-1(2H)-ylmethyl)benzoyl]-hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 70 mg, yield 41% | N1(CCC=CC1)CC1=CC=C(C(=O)N2CC3N(CC2)C(OC3(C3=CC=CC=C3)C3=CC=CC=C3)=O)C=C1 | C31H31N3O3
